US04992439
Methyl 6-Oxo-3,4-diphenyl-1(6H)pyridazinyloctanoate
Reaction of 5,6-diphenyl-3(2H)-pyridazinone and methyl 8-bromooctanoate according to the procedure of Example 1 provided the title compound as an oil.

reactant | 5,6-diphenyl-3(2H)-pyridazinone | C1(=CC=CC=C1)C1=CC(NN=C1C1=CC=CC=C1)=O | C16H12N2O
reactant | methyl 8-bromooctanoate | BrCCCCCCCC(=O)OC | C9H17BrO2
product | Methyl 6-Oxo-3,4-diphenyl-1(6H)pyridazinyloctanoate | O=C1C=C(C(=NN1C(C(=O)OC)CCCCCC)C1=CC=CC=C1)C1=CC=CC=C1 | C25H28N2O3
